US09023760B2
Step 2: Preparation of 3-Chloro-3-(3,4′-dichloro-5-methyl-biphenyl-4-yl)-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]decane-2,4-dione (title compound P1.9)
To a solution of 3-(3,4′-dichloro-5-methyl-biphenyl-4-yl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one (100 mg, 0.224 mmol) and sodium hydrogen carbonate (47 mg, 0.560 mmol) in dichloromethane (5 ml) at −5° C. was added sulfuryl chloride (0.017 ml, 28.3 mg, 0.210 mmol) in dichloromethane (0.5 ml) dropwise. The reaction mixture was stirred at 0° C. for 30 minutes and at room temperature overnight, poured on saturated aqueous sodium carbonate, the layers were separated, the water phase extracted with ethyl acetate (3×20 ml), the combined organic phases washed with saturated aqueous sodium carbonate and brine, dried over sodium sulfate and concentrated. The residue was purified by chromatography on silica gel (ethyl acetate/cyclohexane 2:1). Yield: 65 mg of 3-chloro-3-(3,4′-dichloro-5-methyl-biphenyl-4-yl)-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]decane-2,4-dione (title compound P1.9) as a gum.

reactant | 3-(3,4′-dichloro-5-methyl-biphenyl-4-yl)-4-hydroxy-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]dec-3-en-2-one | 0.224 mmol, 100 mg | ClC=1C=C(C=C(C1C=1C(N(C2(C1O)CCN(CC2)OC)C)=O)C)C2=CC=C(C=C2)Cl | C23H24Cl2N2O3
reactant | sodium hydrogen carbonate | 0.560 mmol, 47 mg | C(O)([O-])=O.[Na+]
reactant | sulfuryl chloride | 0.210 mmol, 0.017 ml, 28.3 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 3-Chloro-3-(3,4′-dichloro-5-methyl-biphenyl-4-yl)-8-methoxy-1-methyl-1,8-diaza-spiro[4.5]decane-2,4-dione | ClC1(C(N(C2(C1=O)CCN(CC2)OC)C)=O)C2=C(C=C(C=C2C)C2=CC=C(C=C2)Cl)Cl | C23H23Cl3N2O3
